US05041455
B. 3-(1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (1 ml, 15 mmol) and 3-(1,2,5-thiadiazol-3-yl)pyridine (6 mmol) in acetone (5 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration to yield 1.2 g (74%).

reactant | methyl iodide | 15 mmol, 1 ml | CI | CH3I
reactant | 3-(1,2,5-thiadiazol-3-yl)pyridine | 6 mmol | S1N=C(C=N1)C=1C=NC=CC1 | C7H5N3S
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].S1N=C(C=N1)C=1C=[N+](C=CC1)C | InChI=1S/C8H8N3S.HI/c1-11-4-2-3-7(6-11)8-5-9-12-10-8;/h2-6H,1H3;1H/q+1;/p-1
